US07291632B2
Preparation 55. N-(6-Aminopyridin-2-yl)-2,4,6-trichlorobenzamide
Using a method similar to Preparation 48, using 2,6-diaminopyridine (2.6 g, 12 mmol), dioxane (80 mL), and 2,4,6-trichlorobenzoyl chloride (1.95 g, 8 mmol)(stir at 0–25° C. for 16 hr.) gives the title intermediate (1.0 g, 39% yield): mass spectrum (ion spray): m/z=316.0 (M+1).

reactant | 2,6-diaminopyridine | 12 mmol, 2.6 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 2,4,6-trichlorobenzoyl chloride | 8 mmol, 1.95 g | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | N-(6-Aminopyridin-2-yl)-2,4,6-trichlorobenzamide | 1.0 g, 39% yield | NC1=CC=CC(=N1)NC(C1=C(C=C(C=C1Cl)Cl)Cl)=O | C12H8Cl3N3O
